US07473698B2
3-[4-(3,4-DIFLUOROPHENOXY)PHENYL]PROPANOIC ACID
In a 50-mL RB-flask was added 3-(4-hydroxyphenyl)propionic acid (1.66 g, 10.0 mmol), 3,4-difluoroiodobenzene (2.40 g, 10.0 mmol), copper(I) bromide (0.100 g), potassium carbonate (2.76 g, 20.0 mmol), and n-methyl-2-pyrrolidone (20 mL) as solvent. The mixture was stirred for 5 min at room temperature and then heated to 140° C. (oil bath). After being stirred for 12 hours at 140° C., the reaction mixture was cooled to room temperature and diluted with EtOAC (100 mL). The diluted mixture was washed with citric acid (aq, 30 mL), water (3×50 mL, brine and dried over MgSO4. The removal of solvent in vacuo afforded crude which was purified by chromatography (0.901 g, 32%): 1H NMR (400 MHz, CDCl3) δ 11.44-11.06 (br, 1H), 7.24-7.14 (m, 2H), 7.14-7.00 (m, 1H), 7.00-6.86 (m, 2H), 6.86-6.75 (m, 1H), 6.75-6.61 (m, 1H), 2.94 (t, 2H, J=7.6 Hz), 2.68 (t, 2H, J=7.6 Hz); ESMS m/e: 277.2 (M−H+).

reactant | 3-(4-hydroxyphenyl)propionic acid | 10.0 mmol, 1.66 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 3,4-difluoroiodobenzene | 10.0 mmol, 2.40 g | FC=1C=C(C=CC1F)I | C6H3F2I
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | copper(I) bromide | 0.100 g | [Cu]Br
solvent | n-methyl-2-pyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 3-[4-(3,4-DIFLUOROPHENOXY)PHENYL]PROPANOIC ACID | FC=1C=C(OC2=CC=C(C=C2)CCC(=O)O)C=CC1F | C15H12F2O3
